US07084135B1
Step 33.a. 2,2′-dibromoacetophenone
Bromine (40.3 g, 0.25 mol) was added dropwise to a solution of 2′-Bromoacetophenone (50.0 g, 0.25 mol) in acetic acid (50 ml) over 1.5 hours at 15–20° C. The solution was then allowed to warm to room temperature and concentrated under reduced pressure to yield a crude product that was used without further purification.

reactant | Bromine | 0.25 mol, 40.3 g | BrBr | Br2
reactant | 2′-Bromoacetophenone | 0.25 mol, 50.0 g | BrC1=C(C=CC=C1)C(C)=O | C8H7BrO
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2,2′-dibromoacetophenone | BrCC(=O)C1=C(C=CC=C1)Br | C8H6Br2O
